US06479483B2
2-(3,5-bis-Trifluoromethyl-phenyl)-N-methyl-N-(6-piperazin-1-yl-4-o-tolyl-pyridin-3-yl)-isobutyramide
To a solution of 100 mg (0.173 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-N-[6-(4-methyl-piperazin-1-yl)-4-o-tolyl-pyridin-3-yl]-isobutyramide (example 14 g) and 7 mg (0.035 mmol) 1,8-bis(dimethylamino)naphthalene in 1 ml 1,2-dichloroethane at 0° C. were added 26 mg (0.181 mmol) 1-chloroethyl chloroformate. After heating the reaction mixture for 1 h at 80° C. the solvent was removed in vacuo and the intermediate was purified by flash chromatography, re-dissolved in 1 ml methanol and refluxed for 3 h. Flash chromatography gave 56 mg (57%) of the title compound as white foam.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-N-[6-(4-methyl-piperazin-1-yl)-4-o-tolyl-pyridin-3-yl]-isobutyramide | 0.173 mmol, 100 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C=1C=NC(=CC1C1=C(C=CC=C1)C)N1CCN(CC1)C)C)(C)C)(F)F | C30H32F6N4O
reactant | 1,8-bis(dimethylamino)naphthalene | 0.035 mmol, 7 mg | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | 1-chloroethyl chloroformate | 0.181 mmol, 26 mg | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 1 ml | ClCCCl | C2H4Cl2
product | 2-(3,5-bis-Trifluoromethyl-phenyl)-N-methyl-N-(6-piperazin-1-yl-4-o-tolyl-pyridin-3-yl)-isobutyramide | 56 mg, 57% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C=1C=NC(=CC1C1=C(C=CC=C1)C)N1CCNCC1)C)(C)C)(F)F | C29H30F6N4O
